US07732461B2
(b) 2-(1,3-Dioxolan-2-yl)-6,7-dihydro-5H-thieno[3,2-b]pyran
3-[3-Bromo-5-(1,3-dioxolan-2-yl)-2-thienyl]-1-propanol (1.86 g, 6.3 mmol) was dissolved in dry toluene (150 ml), caesium carbonate (3.58 g, 1.5 equiv.) added, and the mixture evacuated and purged with Argon. The evacuation/purge procedure was repeated twice more. In a separate flask, were placed rac-2-di-tert-butylphosphino-1,1′-binaphthyl (Strem chemicals, 257 mg) and palladium(II) acetate (148 mg) in toluene (50 ml). The flask was evacuated and purged with argon and the procedure repeated twice more. After 10 min, the resultant yellow solution of catalyst was added to the flask containing the thiophene via syringe and the flask once more evacuated and purged with argon. The reaction mixture was heated to 100° C. under an argon atmosphere for 3 days. The reaction mixture was cooled, filtered through Kieselguhr and evaporated to low volume. The residue was chromatographed on silica gel eluting with 0-50% ethyl acetate in hexane, to afford the desired compound as a white solid (0.48 g, 36%).

reactant | 3-[3-Bromo-5-(1,3-dioxolan-2-yl)-2-thienyl]-1-propanol | 6.3 mmol, 1.86 g | BrC1=C(SC(=C1)C1OCCO1)CCCO | C10H13BrO3S
reactant | caesium carbonate | 3.58 g, 1.5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,3-Dioxolan-2-yl)-6,7-dihydro-5H-thieno[3,2-b]pyran | 0.48 g, 36% | O1C(OCC1)C1=CC=2OCCCC2S1 | C10H12O3S
